* Z:\home\arthur\Desktop\UFMG\Lab_Eletronica\source_project\Fonte.asc
V1 N001 0 SINE(0 25.45 60)
V2 0 N014 SINE(0 25.45 60)
D1 N001 +Vcc D
D2 -Vcc N001 D
D3 N014 +Vcc D
D4 -Vcc N014 D
C1 +Vcc 0 4000µ
C2 -Vcc 0 4000µ
R4 -Vcc N030 4k
D6 N030 0 1N750
R5 N030 -Vref 1
R6 -Vref 0 10k
V3 0 -5v 5
V4 +5v 0 5
R12 N028 N027 100
R13 N032 N031 1k
R14 N031 N029 20k
R15 0 N029 10k
R16 N032 0 15
Q2 -Vcc N028 N032 0 FZT849
XU2 -Vref N029 +5v -Vcc N027 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R21 Vprot_in+ Vprot_out+ 0.1
R22 N002 Vprot_in+ 10k
R23 N010 Vprot_out+ 10k
R24 N002 0 200k
R25 N010 N008 200k
XU3 N002 N010 +5v -5v N008 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU4 N008 +2.1v +5v -5v N011 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
V5 +2.1v 0 2.1
A1 +5v 0 N011 0 0 0 N005 0 DFLOP
XU5 N005 N009 +5v -5v Vprot+ level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R26 Vprot+ N009 4k
R27 0 N009 1k
R17 N004 N003 50
R18 Vprot_out+ N013 4.5k
R19 N013 N006 18k
R20 0 N006 10k
R29 Vprot_out+ 0 15
Q4 +Vcc N004 Vprot_in+ 0 FZT849
XU6 +Vref N006 +Vcc -5v N003 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R30 +Vcc N007 4k
D7 0 N007 1N750
R31 N007 +Vref 1
R32 +Vref 0 10k
R33 -Vcc N024 4k
D8 N024 0 1N750
R34 N024 -Vref 1
R35 -Vref 0 10k
R36 N016 N015 50
R37 Vprot_out- N025 4.5k
R38 N025 N018 18k
R39 0 N018 10k
R40 Vprot_out- 0 5
XU7 -Vref N018 +5v -Vcc N015 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
Q5 -Vcc N016 Vprot_in- 0 2N2907
Q6 N007 N012 0 0 2N2222
R41 N012 Vprot+ 1k
R1 Vprot_out- Vprot_in- 0.1
R2 N017 Vprot_out- 10k
R3 N022 Vprot_in- 10k
R7 N017 0 200k
R8 N022 N020 200k
XU1 N017 N022 +5v -5v N020 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU8 N020 +2.1v +5v -5v N023 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
A2 +5v 0 N023 0 0 0 N019 0 DFLOP
XU9 N019 N021 +5v -5v Vprot- level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R9 Vprot- N021 4k
R10 0 N021 1k
R11 N026 Vprot- 1k
Q1 N024 N026 0 0 2N2222
.model D D
.lib C:\Program Files (x86)\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\lib\cmp\standard.bjt
* Estágio retificador com filtro capacitivo
.tran 0.1s
* Estágio regulador de tensão (-)
* Fontes auxiliares
* Estágio de ganho (-)
* Estágio de ganho (+)
* Estágio de ganho (-)
.lib UniversalOpamps2.sub
.backanno
.end
