* D:\Arquivos\Documents\Estudo\UFMG\2021-2\Laboratório de Circuitos Eletrônicos 1\Trabalho\source_project\Fonte.asc
V1 N001 0 SINE(0 25.45 60)
V2 0 N014 SINE(0 25.45 60)
D1 N001 +Vcc D
D2 -Vcc N001 D
D3 N014 +Vcc D
D4 -Vcc N014 D
C1 +Vcc 0 4000µ
C2 -Vcc 0 4000µ
V3 0 -5v_antigo 5
V4 +5v_antigo 0 5
R21 Vprot_in+ Vout+ 0.1
R22 N002 Vprot_in+ 10k
R23 N010 Vout+ 10k
R24 N002 0 200k
R25 N010 N008 200k
XU3 N002 N010 +5v -5v N008 level3a Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 Phimargin=45 En=0 Enk=0 In=0 Ink=0 Rin=500Meg Ro=1k Ccm=1p Cdiff=2p
XU4 N008 +2.1v +5v -5v N011 level3a Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 Phimargin=45 En=0 Enk=0 In=0 Ink=0 Rin=500Meg Ro=1k Ccm=1p Cdiff=2p
V5 +2.1v_antigo 0 2.1
A1 +5v 0 N011 0 0 0 N005 0 DFLOP
XU5 N005 N009 +5v -5v Vprot+ level3a Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 Phimargin=45 En=0 Enk=0 In=0 Ink=0 Rin=500Meg Ro=1k Ccm=1p Cdiff=2p
R26 Vprot+ N009 4k
R27 0 N009 1k
R17 N004 N003 50
R18 Vout+ N013 4.5k
R19 N013 N006 18k
R20 0 N006 10k
R_load+ Vout+ 0 5
Q4 +Vcc N004 Vprot_in+ 0 FZT849
XU6 +Vref N006 +Vcc -5v N003 level3a Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 Phimargin=45 En=0 Enk=0 In=0 Ink=0 Rin=500Meg Ro=1k Ccm=1p Cdiff=2p
R30 +Vcc N007 4k
D7 0 N007 1N750
R31 N007 +Vref 1
R32 +Vref 0 10k
R33 -Vcc N024 4k
D8 N024 0 1N750
R34 N024 -Vref 1
R35 -Vref 0 10k
R36 N017 N016 50
R37 Vout- N025 4.5k
R38 N025 N019 18k
R39 0 N019 10k
R_load- Vout- 0 5
XU7 -Vref N019 +5v -Vcc N016 level3a Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 Phimargin=45 En=0 Enk=0 In=0 Ink=0 Rin=500Meg Ro=1k Ccm=1p Cdiff=2p
Q5 -Vcc N017 Vprot_in- 0 2N2907
Q6 N007 N012 0 0 2N2222
R41 N012 Vprot+ 1k
R1 Vout- Vprot_in- 0.1
R2 N018 Vout- 10k
R3 N022 Vprot_in- 10k
R7 N018 0 200k
R8 N022 N021 200k
XU1 N018 N022 +5v -5v N021 level3a Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 Phimargin=45 En=0 Enk=0 In=0 Ink=0 Rin=500Meg Ro=1k Ccm=1p Cdiff=2p
XU8 N021 +2.1v +5v -5v N023 level3a Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 Phimargin=45 En=0 Enk=0 In=0 Ink=0 Rin=500Meg Ro=1k Ccm=1p Cdiff=2p
A2 +5v 0 N023 0 0 0 N020 0 DFLOP
XU9 0 N015 +5v -5v Vprot- level3a Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 Phimargin=45 En=0 Enk=0 In=0 Ink=0 Rin=500Meg Ro=1k Ccm=1p Cdiff=2p
R11 N027 Vprot- 1k
Q1 N024 N027 0 0 PNP
R9 N015 N020 1k
R10 Vprot- N015 5k
R4 N026 +Vcc 50k
R5 N028 N026 10k
D5 0 N028 BZX84C6V2L
Q2 N026 N028 +5V 0 2N3391A
R6 N031 -Vcc 50k
R12 N033 N031 10k
D6 N033 0 BZX84C6V2L
Q3 N031 N033 -5V 0 2N4126
D9 N030 N032 RR2L4S
D10 N029 N030 RR2L4S
D11 +2.1v N029 RR2L4S
R13 +Vcc +2.1v 100k
D12 N032 0 RR2L4S
.model D D
.lib D:\Arquivos\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib D:\Arquivos\Documents\LTspiceXVII\lib\cmp\standard.bjt
* Estágio retificador com filtro capacitivo
.tran 0.1s
* Fontes auxiliares
* Estágio de ganho (+)
* Estágio de ganho (-)
.lib UniversalOpamp.lib
.backanno
.end
